US07790733B2
a) 1-(2-Amino-3-methoxy-phenyl)-ethanone
Under an atmosphere of nitrogen, methyl iodide (1.35 g, 10 mmol) and potassium carbonate (4.39 g, 320 mmol) were added to a solution of 2′-amino-3′-hydroxyacetophenone (960 mg, 6 mmol, TCI Europe) in DMF (6 ml). The reaction mixture was stirred for 1 h at r.t., during which time the color of the mixture changed from light brown to dark green. The mixture was then worked up by extraction with H2O/ethyl acetate, drying of the organic phase (Na2SO4), and evaporation of solvent. The title compound (960 mg, 92%) was isolated from the residue by column chromatography (silica gel, heptan/ethyl acetate=100/0-70/30).

reactant | methyl iodide | 10 mmol, 1.35 g | CI | CH3I
reactant | potassium carbonate | 320 mmol, 4.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2′-amino-3′-hydroxyacetophenone | 6 mmol, 960 mg | NC1=C(C=CC=C1O)C(C)=O | C8H9NO2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1-(2-Amino-3-methoxy-phenyl)-ethanone | 960 mg, 92% | NC1=C(C=CC=C1OC)C(C)=O | C9H11NO2
